US07906517B2
4-sec-Butyl-phenol (3.0 g) is dissolved in chloroform and thereto is added bromine (1.02 ml) and the mixture is stirred at room temperature for 30 minutes. Thereto are added a saturated aqueous sodium thiosulfate solution, a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give 2-bromo-4-sec-butyl-phenol (4.57 g). NMR (CDCl3): 0.81 (3H, t), 1.19 (3H, d), 1.56 (2H, m), 2.51 (1H, m), 5.33 (1H, s), 6.93 (1H, d), 7.02 (1H, d), 7.26 (1H, s).

reactant | 4-sec-Butyl-phenol | 3.0 g | C(C)(CC)C1=CC=C(C=C1)O | C10H14O
reactant | bromine | 1.02 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-4-sec-butyl-phenol | 4.57 g | BrC1=C(C=CC(=C1)C(C)CC)O | C10H13BrO
